US05550257
(R)-1-(2-propynyl)-3-(methoxymethoxy)-2-pyrrolidinone
A solution of 1.0 g of chloromethyl methyl ether in 15 ml of methylene chloride is added dropwise to a solution of 1.5 g of (R)-3-hydroxy-1-(2-propynyl)-2-pyrrolidinone, prepared by the procedure of Example 1, U.S. Pat. No. 5,089,518, and 1.5 g of ethyldiisopropylamine in 15 ml of methylene chloride which is stirred in an ice bath. The reaction is allowed to warm to room temperature and stirred overnight. The solution was washed with water, aqueous sodium bicarbonate and dried over anhydrous sodium sulfate. The methylene chloride solution is concentrated at reduced pressure and purified by column chromatography (silica gel: mehylene chloride) to give the product.

reactant | chloromethyl methyl ether | 1.0 g | COCCl | C2H5ClO
reactant | (R)-3-hydroxy-1-(2-propynyl)-2-pyrrolidinone | 1.5 g | O[C@H]1C(N(CC1)CC#C)=O | C7H9NO2
reactant | ethyldiisopropylamine | 1.5 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (R)-1-(2-propynyl)-3-(methoxymethoxy)-2-pyrrolidinone | C(C#C)N1C([C@@H](CC1)OCOC)=O | C9H13NO3
